### PR TITLE
Basic group theory

### PR DESCRIPTION
**Pull request by ncfavier**
# Description

- (amalgamated) free products of groups, making them finitely cocomplete
- semidirect products of abstract and concrete groups, some fundamental group actions
- cyclic groups, $\mathbb{Z}/n\mathbb{Z}$
- (generalised) dihedral groups
- explicit construction of finite products of concrete groups
- order of an element, torsion groups, torsion-free groups

## Checklist

Before submitting a merge request, please check the items below:

- [X] I've read [the contributing guidelines](https://github.com/plt-amy/1lab/blob/main/CONTRIBUTING.md).
- [X] The imports of new modules have been sorted with `support/sort-imports.hs` (or `nix run --experimental-features nix-command -f . sort-imports`).
- [X] All new code blocks have "agda" as their language.

### CODE REVIEW

File: src/Algebra/Group/Instances/Integers.lagda.md [hunk 1]
```diff
@@ -0,0 +1,248 @@
...
+    pow-+ : ∀ a b → pow (a +ℤ b) ≡ pow a ⋆ pow b
+    pow-+ a = ℤ.induction
+      (ap pow (+ℤ-zeror a) ∙ sym idr)
+      λ b →
+        pow (a +ℤ b)        ≡ pow a ⋆ pow b        ≃⟨ ap (_⋆ x) , equiv→cancellable (⋆-equivr x) ⟩
+        pow (a +ℤ b) ⋆ x    ≡ (pow a ⋆ pow b) ⋆ x  ≃⟨ ∙-post-equiv (sym associative) ⟩
+        pow (a +ℤ b) ⋆ x    ≡ pow a ⋆ pow b ⋆ x    ≃⟨ ∙-post-equiv (ap (pow a ⋆_) (sym (pow-sucr b))) ⟩
+        pow (a +ℤ b) ⋆ x    ≡ pow a ⋆ pow (sucℤ b) ≃⟨ ∙-pre-equiv (pow-sucr (a +ℤ b)) ⟩
+        pow (sucℤ (a +ℤ b)) ≡ pow a ⋆ pow (sucℤ b) ≃⟨ ∙-pre-equiv (ap pow (+ℤ-sucr a b)) ⟩
+        pow (a +ℤ sucℤ b)   ≡ pow a ⋆ pow (sucℤ b) ≃∎
```
Comment (ncfavier) [inline src/Algebra/Group/Instances/Integers.lagda.md:84]: This is exactly the same proof as `Homotopy.Space.Circle.loopⁿ-+`, but since `loopⁿ` is defined before we know that $\Omega S^1$ is a set, the common generalisation seems to be wild groups and I didn't want to go into that.

**Comment by Lavenza** [comment]
[Pull request preview](https://preview.1lab.dev/427)

File: src/Data/Int/DivMod.lagda.md [hunk 2]
```diff
@@ -0,0 +1,227 @@
...
+```agda
+rem-zero→divides : ∀ n x → .⦃ _ : Positive n ⦄ → x %ℤ n ≡ 0 → n ∣ℤ x
+rem-zero→divides n x p = dividesℤ (x /ℤ n) $
+  x /ℤ n *ℤ pos n                 ≡˘⟨ +ℤ-zeror _ ⟩
+  x /ℤ n *ℤ pos n +ℤ pos ⌜ 0 ⌝    ≡˘⟨ ap¡ p ⟩
+  x /ℤ n *ℤ pos n +ℤ pos (x %ℤ n) ≡˘⟨ is-divmodℤ x n ⟩
+  x                               ∎
+
+divides→rem-zero : ∀ n x → .⦃ _ : Positive n ⦄ → n ∣ℤ x → x %ℤ n ≡ 0
+divides→rem-zero n@(suc _) x ⦃ p ⦄ n∣x = divides-diff→same-rem n x 0 ⦃ p ⦄
```
Comment (ncfavier) [inline src/Data/Int/DivMod.lagda.md:225]: Not sure why matching on `suc _` makes instance search fail here.

Comment (ncfavier) [reply src/Data/Int/DivMod.lagda.md:229]: Minimised in https://github.com/the1lab/1lab/issues/428

**Review by plt-amy — APPROVED** [review]
